US09079865B2
A 25-mL, 3-necked, round-bottomed flask was charged with a cold (0° C.) solution of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyridin-4-yl)acrylohydrazide (0.08 g) in CH2Cl2 (5.0 mL) and treated with 4N HCl in dioxane (0.5 mL). The reaction mixture was allowed to warm to room temperature and stirred for 4 h before being concentrated under reduced pressure (35° C., 20 mmHg) to afford 0.05 g (yield: 40.81%) (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyridin-4-yl)acrylohydrazide-HCl salt. 1H NMR (400 MHz, DMSO-d6) δ 13.67 (br s, exchangeable, 1H), 10.67 (s, exchangeable, 1H), 9.43 (s, 1H), 8.58 (s, 2H), 8.35-8.38 (m, 4H), 7.60-7.62 (d, J=10.4 Hz, 1H), 6.92-6.96 (m, 2H), 611-6.13 (d, J=10.4 Hz, 1H); LCMS for C18H13F6N6O [M+H]+ 443.33. found 443.24 (RT 3.00 min, purity: 90.97%).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyridin-4-yl)acrylohydrazide | 0.08 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NNC1=CC=NC=C1)(F)F | C18H12F6N6O
reactant | HCl | 4N | Cl | ClH
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-(pyridin-4-yl)acrylohydrazide-HCl salt | 0.05 g, yield: 40.81% | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NNC1=CC=NC=C1)(F)F | InChI=1S/C18H12F6N6O.ClH/c19-17(20,21)12-7-11(8-13(9-12)18(22,23)24)16-26-10-30(29-16)6-3-15(31)28-27-14-1-4-25-5-2-14;/h1-10H,(H,25,27)(H,28,31);1H/b6-3-;
